US20010006969A1
4-Allylamino-2-diallylamino-6-chloroquinazoline
In a sealed tube were stirred 268 mg (1.06 mmol) of 4-allylamino-2,6-dichloronitroquinazoline and 787 mg (8.10 mmol) of diallylamine at 120° C. for 3 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by silica gel column to give 284 mg (yield: 85.1%) of the title compound.

reactant | 4-allylamino-2,6-dichloronitroquinazoline | 1.06 mmol, 268 mg | C(C=C)NC1=NC(=NC2=CC=C(C(=C12)[N+](=O)[O-])Cl)Cl | C11H8Cl2N4O2
reactant | diallylamine | 8.10 mmol, 787 mg | C(C=C)NCC=C | C6H11N
solvent | Water | O | H2O
product | 4-Allylamino-2-diallylamino-6-chloroquinazoline | 284 mg, yield: 85.1% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)Cl)N(CC=C)CC=C | C17H19ClN4
